US07449456B2
A 8 ml portion of NMP solution containing 800 mg of 2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-(methylsulfinyl)pyrimidine-5-carboxamide was mixed with 373 mg of cyclohexylamine and 0.87 ml of diisopropylethylamine, followed by stirring at 100° C. for 1 hour. The reaction mixture was cooled down to room temperature, and then mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, and then the solvent was evaporated. The resulting residue was purified by a silica gel column chromatography (chloroform:methanol), and the resulting crude crystals were recrystallized (methanol-ethyl acetate) to obtain 547 mg of 2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-cyclohexylaminopyrimidine-5-carboxamide as colorless crystals.

reactant | NMP | CN1CCCC1=O | C5H9NO
reactant | 2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-(methylsulfinyl)pyrimidine-5-carboxamide | 800 mg | OC1=CC=C(C=C1)CCNC1=NC=C(C(=N1)S(=O)C)C(=O)N | C14H16N4O3S
reactant | cyclohexylamine | 373 mg | C1(CCCCC1)N | C6H13N
reactant | diisopropylethylamine | 0.87 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | O | H2O
product | 2-{[2-(4-hydroxyphenyl)ethyl]amino}-4-cyclohexylaminopyrimidine-5-carboxamide | 547 mg | OC1=CC=C(C=C1)CCNC1=NC=C(C(=N1)NC1CCCCC1)C(=O)N | C19H25N5O2
